US03965220
To a mixture of 225 g. phosphoryl chloride and 1.6 g. pyridine there is added 150 g. p-tert-butylphenol over a period of two hours at a temperature of 100°C. The temperature is then raised to 110°C. and held for two hours, stripped and cooled. Distillation of the reaction mixture affords 94.3 percent p-tert-butylphenyl phosphorodichloridate and 2.5 percent di-p-tert-butylphenyl phosphorochloridate.

reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | p-tert-butylphenol | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | p-tert-butylphenyl phosphorodichloridate | 94.3 percent | P(OC1=CC=C(C=C1)C(C)(C)C)(=O)(Cl)Cl | C10H13Cl2O2P
